US07674397B2
Step 14.2: 2-{4-[6-((3-ethyloxetan-3-yl)methoxy)hexyl]phenyl}-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane
To a stirred solution of 3-[6-(4-bromophenyl)hexyloxymethyl]-3-ethyl-oxetane (2.0 g, 5.63 mmol) in dry THF (20 ml) is added n-butyllithium (2.5 M in hexanes, 2.25 ml, 5.63 mmol) dropwise at −78° C. under nitrogen, with stirring. After complete addition, the mixture is stirred for another 20 min, followed by the addition of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.05 g, 5.64 mmol). The resultant mixture is stirred overnight at room temperature. The reaction is quenched with water, and the reaction mixture is extracted with ethyl acetate (3×50 ml). The combined organic extracts are washed with water, brine, and dried (Na2SO4). The solvent is removed under reduced pressure and the residue is purified by column chromatography on silica, eluting with petroleum ether/ethyl acetate (9:1 to 7:3), to give a brown oil (1.60 g, 71%). 1H NMR (300 MHz, CDCl3): δ(ppm) 7.72 (d, J=8.1 Hz, 2H, Ar—H), 7.17 (d, J=8.1 Hz, 2H, Ar—H), 4.43 (d, J=5.8 Hz, 2H, OCH2), 4.35 (d, J=5.8 Hz, 2H, OCH2), 3.48 (s, 2H, OCH2), 3.41 (t, J=6.4 Hz, 2H, OCH2), 2.60 (t, J=7.9 Hz, 2H, ArCH2), 1.72 (q, J=7.5 Hz, 2H, CH2), 1.56 (m, 4H, CH2), 1.32 (m, 14H, CH2 and CH3); 0.86 (t, J=7.5 Hz 3H, CH3); 13C NMR (75 MHz, CDCl3): δ (ppm) 146.1 (quat.), 134.8 (CH), 127.8 (CH), 83.5 (quat.), 78.5 (OCH2), 73.3 (OCH2), 71.5 (OCH2), 43.4 (quat.), 36.1 (CH2), 31.3 (CH2), 29.5 (CH2), 29.0 (CH2), 26.7 (CH2), 26.0 (CH2), 24.8 (CH3), 8.2 (CH3).

reactant | 3-[6-(4-bromophenyl)hexyloxymethyl]-3-ethyl-oxetane | 5.63 mmol, 2.0 g | BrC1=CC=C(C=C1)CCCCCCOCC1(COC1)CC | C18H27BrO2
reactant | n-butyllithium | 5.63 mmol, 2.5 M, 2.25 ml | C(CCC)[Li]
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 5.64 mmol, 1.05 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-{4-[6-((3-ethyloxetan-3-yl)methoxy)hexyl]phenyl}-4,4,5,5-tetramethyl-[1,3,2]-dioxaborolane | 1.60 g, 71% | C(C)C1(COC1)COCCCCCCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H39BO4
